US07595403B2
The preparation of 6-Chloro-3-oxo-3H-benzo[d]isothiazole-2-carboxylic acid benzylamide
Following the synthetic procedure of 6a as described in Example 1, compound 6z (95% yield) was synthesized from 6-chloro-benzo[d]isothiazol-3-one and benzyl isocyanate as a white solid. IR(CHCl3) 3289, 1713, 1536 cm−1; 1H-NMR (CDCl3) δ4.63 (d, J=5.8 Hz, 2H), 7.22-7.40 (m, 6H), 7.58 (s, 1H), 7.92 (d, J=8.8 Hz, 1H), 9.15 (br s, 1H); ESIMS m/e 319 and 321 (M++1, 35Cl and 37Cl).

reactant | 6-chloro-benzo[d]isothiazol-3-one | ClC1=CC2=C(C(NS2)=O)C=C1 | C7H4ClNOS
reactant | benzyl isocyanate | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | 6-Chloro-3-oxo-3H-benzo[d]isothiazole-2-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)N1SC2=C(C1=O)C=CC(=C2)Cl | C15H11ClN2O2S
